US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-((R)-3-hydroxy-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.2 mmol), (R)-pyrrolidin-3-ol (34 mg, 0.2 mmol), HOBt (20 mg), EDAC.HCl (40 mg) and TEA (40 mg, 3 eq.) in DMF was stirred at 40° C. for 3 days. The reaction was concentrated and purified on a silica gel column to give the titled compound. MS m/z 572 [M−1].

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.2 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | (R)-pyrrolidin-3-ol | 0.2 mmol, 34 mg | N1C[C@@H](CC1)O | C4H9NO
reactant | HOBt | 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 40 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-((R)-3-hydroxy-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1C[C@@H](CC1)O)C | C27H25Cl2N3O5S
